Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],3.7790380301
[H:7].[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.02941624051
[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.7138865290300007
[C:1]#[C:2].[O:3]>>[C:1][C:2][O:3],-8.11965889398
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.60770711395
[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.99352040436
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11],-4.86425352901
[H:15].[H:1][C:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5791782581
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.3022130714
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-4.01701454288
[C:8]([H:9])[O:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],-6.86339164524
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2][O:3][C:4]#[C:5][O:7][H:8].[H:6],2.6296812595
[H:1][O:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1].[O:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],3.63090322176
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1],5.98571379304
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],2.946516997
[O:1]=[C:2]=[C:3][O:4][H:5]>>[C:2]#[C:3][O:4][H:5].[O:1],6.8951110703100005
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],3.73282312085
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.92485745188
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],7.69661970972
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-3.3139522037299995
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[H:7].[O:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.91928042847
[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:4]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3][C:5]([H:6])=[C:7],4.26284281147
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.84077086054
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-2.04088130847
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.09159879688
[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.73189465051
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.3509781197300015
[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-4.58005616024
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.26590390298
